US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-amino-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide
A mixture of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-nitro-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide (3.86 g, 6.4 mmol), cyclohexene (10 mL), dioxane (70 mL) and 10% Pd/C (0.42 g) was stirred at 100° C. for 4 hours. The reaction mixture was filtered over a celite pad washing thoroughly with THF and MeOH. After evaporation of the organic phase, purification of the crude by chromatography over silica gel (DCM/EtOH 9/1) gave 2.75 g of title compound (82% yield).

reactant | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-nitro-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide | 6.4 mmol, 3.86 g | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)[N+](=O)[O-])N(C(C(F)(F)F)=O)C2CCOCC2)=O)C=C(C1)F | C28H22F5N5O5
reactant | cyclohexene | 10 mL | C1=CCCCC1 | C6H10
catalyst | Pd/C | 0.42 g | [Pd] | Pd
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-amino-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide | 2.75 g, 82% yield | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N)N(C(C(F)(F)F)=O)C2CCOCC2)=O)C=C(C1)F | C28H24F5N5O3
